US06110922
3'-Chloro-4'-[(2-chlorophenyl)thio]acetophenone
The title compound was prepared by the procedures described in Example 1A substituting 2,4-dichlorothiophenol with 2-chlorothiophenol, and 2-chlorobenzaldehyde with 4'-fluoro-3'-chloroacetophenone.

reactant | 2-chlorothiophenol | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4'-fluoro-3'-chloroacetophenone | FC1=C(C=C(C=C1)C(C)=O)Cl | C8H6ClFO
product | 3'-Chloro-4'-[(2-chlorophenyl)thio]acetophenone | ClC=1C=C(C=CC1SC1=C(C=CC=C1)Cl)C(C)=O | C14H10Cl2OS
